US08859580B2
3-(1H-Benzoimidazole-5-carbonyl)-N-hydroxy-6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-9-carboxamidine
A solution of 3-(1H-benzoimidazole-5-carbonyl)-6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-9-carbonitrile (0.30 g) and hydroxylamine (50% in water, 0.5 ml) in ethanol (5 mL) is stirred at reflux temperature for 2 h. After cooling to room temperature, the mixture is concentrated under reduced pressure to give the title compound as a white foam-like solid.

reactant | 3-(1H-benzoimidazole-5-carbonyl)-6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-9-carbonitrile | 0.30 g | N1C=NC2=C1C=CC(=C2)C(=O)N2C1CC3=C(C(CC2)(C1(C)C)C)C=CC(=C3)C#N | C24H24N4O
reactant | hydroxylamine | 0.5 ml | NO | H3NO
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-(1H-Benzoimidazole-5-carbonyl)-N-hydroxy-6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-9-carboxamidine | N1C=NC2=C1C=CC(=C2)C(=O)N2C1CC3=C(C(CC2)(C1(C)C)C)C=CC(=C3)C(=N)NO | C24H27N5O2
